US09145411B2
Step 2: 1-(4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)methyl)piperazin-1-yl)-2-hydroxypropan-1-one
In a 50 mL round bottom flask, 2-chloro-4-morpholinopyrido[3,2-d]pyrimidine-7-carbaldehyde (0.3 g, 0.0010 mol) and 1,2-dichloroethane (20 mL) were added. To the reaction flask, 2-hydroxy-1-(piperazin-1-yl)propan-1-one (0.204 g, 0.0013 mol) and trimethyl orthoformate (0.228 g, 0.0030 mol) were added and the reaction mixture stirred at room temperature for 12 hours. To the reaction mixture, sodium triacetoxyborohydride (g, 0.683 0.0020 mol) was added and stirred at room temperature for 3 hours. The reaction mixture was diluted with DCM, washed with water, brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure to provide the crude product. The crude product was purified by column chromatography (60-12 silica gel, 5% methanol in chloroform) to provide the title compound (0.15 g, 33%). 1H NMR (300 MHz, CDCl3): δ 8.62 (d, J=1.8 Hz, 1H), 7.86 (d, J=1.2 Hz, 1H), 4.72 (br s, 4H), 3.84 (t, J=9.0 Hz, 4H), 3.65 (s, 2H), 3.60-3.52 (m, 1H), 3.41 (d, J=2.7 Hz, 1H), 3.23 (s, 4H), 2.46 (d, J=3.0 Hz, 4H), 1.27 (d, J=6.6 Hz, 3H): LC-MS (ESI): Calculated mass. 420.1, Observed mass [M+H]+: 421.1 (RT=0.24 min).

reactant | 2-chloro-4-morpholinopyrido[3,2-d]pyrimidine-7-carbaldehyde | 0.0010 mol, 0.3 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C=O)N2CCOCC2 | C12H11ClN4O2
reactant | 2-hydroxy-1-(piperazin-1-yl)propan-1-one | 0.0013 mol, 0.204 g | OC(C(=O)N1CCNCC1)C | C7H14N2O2
reactant | trimethyl orthoformate | 0.0030 mol, 0.228 g | C(OC)(OC)OC | C4H10O3
reactant | sodium triacetoxyborohydride | 0.0020 mol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1-(4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)methyl)piperazin-1-yl)-2-hydroxypropan-1-one | 0.15 g, 33% | ClC=1N=C(C2=C(N1)C=C(C=N2)CN2CCN(CC2)C(C(C)O)=O)N2CCOCC2 | C19H25ClN6O3
